US05679700
Step F: [[Hydroxy[1(R)-[N-(N-acetyl-L-prolyl-L-alanyl)-amino]-ethyl]-phosphinyl]-methyl]-4-phenylbutanoyl-L-leucine N-phenylamide
A solution of [[(R,S)-Methoxy[1(R)-[N-(N-acetyl-L-prolyl-L-alanyl)-amino]-ethyl]-phosphinyl]methyl]-4-phenylbutanoyl-L-leucyl N-phenylamide (58 mg, 0.096 mmol) in methanol (0.5 mL) was treated with 2N aqueous sodium hydroxide (0.25 mL) for 4 hours at room temperature. The mixture was evaporated, dissolved in water, acidified to pH~1 with 2N hydrochloric acid, and extracted 4 times with ethyl acetate. The combined organic extracts were washed with saturated brine solution, dried (magnesium sulfate), and evaporated.

reactant | [[(R,S)-Methoxy[1(R)-[N-(N-acetyl-L-prolyl-L-alanyl)-amino]-ethyl]-phosphinyl]methyl]-4-phenylbutanoyl-L-leucyl N-phenylamide | 0.096 mmol, 58 mg | CO[P@@](=O)([C@H](C)NC([C@@H](NC([C@H]1N(CCC1)C(C)=O)=O)C)=O)CN([C@@H](CC(C)C)C(=O)[N-]C1=CC=CC=C1)C(CCCC1=CC=CC=C1)=O
reactant | sodium hydroxide | 2N, 0.25 mL | [OH-].[Na+]
solvent | methanol | 0.5 mL | CO | CH4O
product | [[Hydroxy[1(R)-[N-(N-acetyl-L-prolyl-L-alanyl)-amino]-ethyl]-phosphinyl]-methyl]-4-phenylbutanoyl-L-leucine N-phenylamide | C1(=CC=CC=C1)NC([C@@H](N(C(CCCC1=CC=CC=C1)=O)CP(=O)([C@H](C)NC([C@@H](NC([C@H]1N(CCC1)C(C)=O)=O)C)=O)O)CC(C)C)=O | C35H50N5O7P
